US09376442B2
N-[(1S*,3S*,4S*)-4-(Acetylamino)-3-fluorocyclohexyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from N-[(1S*,3S*,4S*)-4-amino-3-fluorocyclohexyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f62) and commercially available acetyl chloride the title compound is obtained as colorless solid.

reactant | N-[(1S*,3S*,4S*)-4-amino-3-fluorocyclohexyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.N[C@@H]1[C@H](C[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(F)F)OCC2CC2)C)F
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[(1S*,3S*,4S*)-4-(Acetylamino)-3-fluorocyclohexyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)(=O)N[C@@H]1[C@H](C[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(F)F)OCC2CC2)C)F | C27H30F3N5O3
